US06956050B2
STEP 1. tert-butyl 2-{4-[2-ethyl-4-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]phenyl}ethylcarbamate
The title compound was prepared according to the procedure described in step 4 of Example 26 from tert-butyl 2-[4-(propanimidoylamino)phenyl]ethylcarbamate and 1-(1,3-thiazol-2-yl)butan-1-one hydrobromide. (Helv. Chim. Acta., 1948, 31, 1142). MS (ESI) m/z 399 [M+H]+.

reactant | tert-butyl 2-[4-(propanimidoylamino)phenyl]ethylcarbamate | C(CC)(=N)NC1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C16H25N3O2
reactant | 1-(1,3-thiazol-2-yl)butan-1-one hydrobromide | Br.S1C(=NC=C1)C(CCC)=O
product | tert-butyl 2-{4-[2-ethyl-4-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]phenyl}ethylcarbamate | C(C)C=1N(C=C(N1)C=1SC=CN1)C1=CC=C(C=C1)CCNC(OC(C)(C)C)=O | C21H26N4O2S
